.circuit
V1 N009 GND 20
E1 N006 GND N004 GND 10
R1 N004 GND 15
R2 N008 N009 30
R3 N007 N006 5
R4 GND N007 100
I1 N005 N002 10
R5 N003 N009 14
R6 GND N005 10
R7 N002 N003 69
R8 N001 GND 100
V2 N004 N008 0
.end
